US07977358B2
{1-[3-((E)-2-Cyclohexyl-vinyl)-phenyl]-3,5-dimethyl-1H-pyrazol-4-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone
In analogy to the procedure described in Example 14C], [1-(3-bromo-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone (Example 30A]) and trans-2-cyclohexylvinylboronic acid gave the title compound in 40% yield as brown gum. MS: 449.3 (MH+).

reactant | [1-(3-bromo-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | BrC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
reactant | trans-2-cyclohexylvinylboronic acid | C1(CCCCC1)/C=C/B(O)O | C8H15BO2
product | {1-[3-((E)-2-Cyclohexyl-vinyl)-phenyl]-3,5-dimethyl-1H-pyrazol-4-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone | 40% yield | C1(CCCCC1)/C=C/C=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CC(CC1)N(CC)CC)C | C28H40N4O
